US08536159B2
(6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(methylthio)-2-(4-(6-fluoropyridin-2-yl)benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one
(6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-2-(4-(6-fluoropyridin-2-yl)benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one (50 mg, 0.12 mmol) and methyl disulfide (21.3 μL, 0.24 mmol) are dissolved in 1 mL of anhydrous THF, and then 360 uL of 1.0 M LDA in THF is added dropwise. The reaction mixture is stirred at room temperature for an hour, and then quenched with saline. The mixture is separated with a semi-preparative HPLC to give 6.8 mg of pure product as pale yellow solids. MS (ESI) m/z 463.2 [M+H]+.

reactant | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-2-(4-(6-fluoropyridin-2-yl)benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one | 0.12 mmol, 50 mg | CN1C=2N(C=3C(C1=O)=CN(N3)CC3=CC=C(C=C3)C3=NC(=CC=C3)F)[C@@H]3[C@H](N2)CCC3 | C23H21FN6O
reactant | methyl disulfide | 0.24 mmol, 21.3 μL | CSSC | C2H6S2
reactant | LDA | 1.0 M, 360 uL | [Li+].CC(C)[N-]C(C)C
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(methylthio)-2-(4-(6-fluoropyridin-2-yl)benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrazolo[4,3-e]pyrimidin-4(2H)-one | 6.8 mg | CN1C=2N(C=3C(C1=O)=C(N(N3)CC3=CC=C(C=C3)C3=NC(=CC=C3)F)SC)[C@@H]3[C@H](N2)CCC3 | C24H23FN6OS
